US08097617B2
Step 14.2: 7-(tert-Butoxycarbonylamino-methyl)-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester.
In a sealed tube, a mixture of 6-bromo-7-(tert-butoxycarbonylamino-methyl)-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester (1.4 g, 3.52 mmol), 2,4-dichloro-benzeneboronic acid (1.01 g, 5.29 mmol), Pd(PPh3)4 (203 mg, 0.18 mmol) and Na2CO3 (2.0 M solution in water, 6.2 mL) in DME (20 mL) was heated at 150° C. for 17 min under microwave irradiation. The reaction mixture was cooled to RT, diluted in AcOEt (400 mL) and washed with a 2.0 M aqueous Na2CO3 solution (2×200 mL). The organic layer was dried over Na2SO4, filtered, and evaporated. The residue was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, [hexane/DCM 1:1]/TBME 95:5→2:8) to yield the title compound (1.39 g, 2.81 mmol, 80%). MS: 464 [M+1]+; HPLC: AtRet=2.31; TLC: RF 0.47 (hexane/DCM/TBME 1:1:2).

reactant | 6-bromo-7-(tert-butoxycarbonylamino-methyl)-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester | 3.52 mmol, 1.4 g | C(C)OC(=O)C1=CN=C2N1C=C(C(=C2)CNC(=O)OC(C)(C)C)Br | C16H20BrN3O4
reactant | 2,4-dichloro-benzeneboronic acid | 5.29 mmol, 1.01 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 2.0 M, 6.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | AcOEt | 400 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.18 mmol, 203 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(tert-Butoxycarbonylamino-methyl)-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester | 2.81 mmol, 1.39 g, 80% | C(C)OC(=O)C1=CN=C2N1C=C(C(=C2)CNC(=O)OC(C)(C)C)C2=C(C=C(C=C2)Cl)Cl | C22H23Cl2N3O4
